US09302988B2
Step 1: tert-Butyl 3,3-dimethylbutylcarbamate
To a cooled (0° C.) solution of 3,3-dimethylbutan-1-amine (866 mg, 8.56 mmol in DCM (9 mL) was added Boc2O (1.87 g, 8.56 mmol). The reaction mixture was stirred at room temperature overnight. The reaction mixture was concentrated and diluted with saturated aqueous NaHCO3 (20 mL) and extracted with DCM (10 mL). The combined organic layers were dried (Na2SO4) and evaporated to give the desired product (1.72 g, 100%) as a colourless oil.

reactant | 3,3-dimethylbutan-1-amine | CC(CCN)(C)C | C6H15N
reactant | Boc2O | 8.56 mmol, 1.87 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | DCM | 9 mL | C(Cl)Cl | CH2Cl2
product | tert-Butyl 3,3-dimethylbutylcarbamate | 1.72 g, 100% | CC(CCNC(OC(C)(C)C)=O)(C)C | C11H23NO2
